US08008525B2
2-Phenoxyacetophenone
2-Fluoroacetophenone (2.0 mg, 14.5 mmol) was dissolved in DMF (50 mL), phenol (1.4 g, 14.5 mmol) and potassium carbonate (2.0 g, 14.5 mmol) were added thereto, and then the mixture was stirred at 120° C. for 7 hours. To the reaction solution was added water, and the reaction mixture was extracted with ethyl acetate. The extract was dried, and then concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=100:0 to 85:15) to give the title compound (2.0 g, yield 65%).

reactant | 2-Fluoroacetophenone | 14.5 mmol, 2.0 mg | FCC(=O)C1=CC=CC=C1 | C8H7FO
reactant | phenol | 14.5 mmol, 1.4 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 14.5 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-Phenoxyacetophenone | 2.0 g, yield 65% | O(C1=CC=CC=C1)CC(=O)C1=CC=CC=C1 | C14H12O2
